US08097758B2
Isopropyl E-3-(2-fluorophenyl)acrylate
400 mg of sodium hydride (60% in oil, 10 mmol) were added to a stirred solution of 4.4 g of ethoxycarbonylmethyltriphenylphosphonium bromide (10 mmol) in 20 ml of DMF and the mixture was stirred further at RT for 10 min. 1.24 g of 2-fluoro-benzaldehyde (10 mmol) were added and the mixture was stirred for 5 h at RT. The reaction mixture was taken up in 100 ml of ethyl acetate and washed with a common salt solution, dried over sodium sulfate, filtered and concentrated under reduced pressure. Purification took place using a silica gel chromatography (ethyl acetate/heptane 1:1). 1.25 g of the title compound were obtained. Yield: 60%.

reactant | sodium hydride | 10 mmol, 400 mg | [H-].[Na+]
reactant | ethoxycarbonylmethyltriphenylphosphonium bromide | 10 mmol, 4.4 g | [Br-].C(C)OC(=O)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 2-fluoro-benzaldehyde | 10 mmol, 1.24 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Isopropyl E-3-(2-fluorophenyl)acrylate | 1.25 g, Yield: 60% | FC1=C(C=CC=C1)/C=C/C(=O)OC(C)C | C12H13FO2
